US04330518
Examples 1 through 24 show how to control the amount of sodalite formed. In each example, a sodium aluminate solution and a sodium silicate solution are formed; the two solutions are added together to produce a certain mixture comprising a mother liquor and an amorphous sodium aluminosilicate; the reaction mixture is reacted to form a zeolite A and the reaction mixture is further reacted to convert some of the zeolite A to a sodalite type product.

reactant | sodium aluminate | O=[Al-]=O.[Na+]
reactant | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | sodium aluminosilicate | [O-][Si](=O)[O-].[O-][Si](=O)[O-].[Na+].[Al+3]
product | zeolite A | O.[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[Na+].[Na+].[Al+3].[Al+3].[Si+4] | InChI=1S/2Al.2Na.H2O.6O.Si/h;;;;1H2;;;;;;;/q2*+3;2*+1;;6*-2;+4
